US05399542
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-methoxymethyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one
To 40 mL of absolute ethanol were added in sequence 0.90 g (2.5 mmol) of 2-propionyl-3-hydroxy-5-(N-methoxymethyl-3-oxo-(2H)-1,4 benzoxazin-6-yl)-cyclohex-2-en-1-one, 0.31 g (3.2 mmol) of ethoxyamine hydrochloride and 0.26 g (3.2 mmol) of anhydrous sodium acetate. The resulting mixture was stirred at ambient temperature for 3 hours. The reaction mixture was then partitioned between 200 mL of water and 50 mL of dichloromethane. The organic layer was separated, dried over MgSO4 and filtered. Evaporation off of the solvent gave the crude product as an oily residue which crystallized upon standing. The crude solid was triturated in warm ether and the above-named product was isolated by filtration as a white solid which melted at 101°-103° C. in a yield of 0.60 g (60 percent of theoretical). 1H NMR (CDCl3): d1.05-1.52 (m, 6H, both --CH2CH3 's), 2.58-3.65 (m including 2H,OCH2C=0), 5.33 (s, 2H, --NCH2O), 6.85-7.30 (m, 3H, aromatic H's), 15.05 (broad s, 1H, enol H); (Compound 8).

reactant | 2-propionyl-3-hydroxy-5-(N-methoxymethyl-3-oxo-(2H)-1,4 benzoxazin-6-yl)-cyclohex-2-en-1-one | 2.5 mmol, 0.90 g | C(CC)(=O)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)COC)C1)=O | C19H21NO6
reactant | ethoxyamine hydrochloride | 3.2 mmol, 0.31 g | Cl.C(C)ON
reactant | sodium acetate | 3.2 mmol, 0.26 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-methoxymethyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)COC)C1)=O | C21H26N2O6
